US20010021481A1
Synthesis of [2.2](1,4)-Naphthalenophane
A mixture of 1,4-dimethylnaphthalene (12.5 g, 0.08 mol), N-bromosuccinimide (30.6 g, 0.17 mol—a brominating agent), and benzoyl peroxide (0.4 g—a catalyst) in carbon tetrachloride (70 ml) was stirred and refluxed for 1 hour. The reaction mixture was cooled to room temperature, and the precipitate was filtered and washed with carbon tetrachloride. A suspension was formed by stirring this solid with water (500 ml) for 45 min. followed by filtering, washing with water, and drying. Recrystallization from ethyl acetate furnished pure 1,4-bis(bromomethyl)naphthalene in 86% yield and with a melting point of 188° C.

reactant | 1,4-dimethylnaphthalene | 0.08 mol, 12.5 g | CC1=CC=C(C2=CC=CC=C12)C | C12H12
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | 500 ml | O | H2O
reactant | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | [2.2](1,4)-Naphthalenophane | 86% yield | C1CC2=CC=C(CCC3=CC=C1C4=CC=CC=C34)C5=CC=CC=C25 | C24H20
